US04800207
A mixture of 20.0 g of (0.21 moles) 2-pyrrolecarboxaldehyde, 71.4 mL of (0.52 moles) o-bromoacetophenone, 72 mL of 1N potassium hydroxide and 800 mL of water was placed in a flask under nitrogen and heated to 45° C. for 72 hr. The reaction was cooled in an ice bath until a solid formed. The solid was taken up in methylcyclohexane/EtOAc, dried over 4A sieves and allowed to cool. The resulting solid was recrystallized from methylcyclohexane/EtOAc to give 43.5 g of 1-(2-bromophenyl)-3-(1H-pyrrol-2-yl)-2-propen-1-one as a yellow solid (75%), mp 76°-78° C.

reactant | 2-pyrrolecarboxaldehyde | 0.21 moles, 20.0 g | N1C(=CC=C1)C=O | C5H5NO
reactant | o-bromoacetophenone | 0.52 moles, 71.4 mL | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | potassium hydroxide | 1N, 72 mL | [OH-].[K+]
reactant | water | 800 mL | O | H2O
solvent | methylcyclohexane EtOAc | CC1CCCCC1.CCOC(=O)C
product | 1-(2-bromophenyl)-3-(1H-pyrrol-2-yl)-2-propen-1-one | 43.5 g, 75% | BrC1=C(C=CC=C1)C(C=CC=1NC=CC1)=O | C13H10BrNO
